US07462726B2
(1) Preparation of 3,4-Dibutylthiphene
Butylmagnesium bromide (140 mmol) was added dropwise at 0° C. to a mixture solution of 3,4-dibromothiophene (50 mmol) and [1,3-bis (diphenylphosphino)propane]dichloronickel(II) (0.3 mmol) in 100 mL of dry diethyl ether. The resulting mixture was heated and refluxed for 6 hours. The reaction mixture was combined with water, and extracted with diethyl ether. The extract solution was derived over magnesium sulfate, and the solvent was evaporated therefrom to obtain a crude product. The crude product was purified by silica gel column chromatography and by distillation to obtain the intended product (32 mmol) in a 64% yield.

reactant | Butylmagnesium bromide | 140 mmol | C(CCC)[Mg]Br
reactant | 3,4-dibromothiophene | 50 mmol | BrC1=CSC=C1Br | C4H2Br2S
reactant | water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | [1,3-bis (diphenylphosphino)propane]dichloronickel(II) | 0.3 mmol | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3,4-Dibutylthiphene | 32 mmol, 64% yield | C(CCC)C1=CSC=C1CCCC | C12H20S
